US06313177B1
To a solution of 1,6-di-O-benzyl-3,4-O-isopropylidene-D-mannitol, obtained as in example 2, (402 mg, 1 mmol) in toluene (10 mL) was added freshly prepared silver oxide (464 mg, 2 mmol) and 4-nitrobenzylbromide (648 mg, 3 mmol). The suspension was stirred at room temperature overnight. More silver oxide (464 mg, 2 mmol) was added and the reaction was refluxed for 24 h. The insoluble material was filtered off and the filtrate was concentrated in vacuo. The residue was purified by chromatography on silica gel eluting with 50% EtOAc in hexane to yield 60% of 1,6-di-O-benzyl-2-O-(4-nitrobenzyl)-D-mannitol and 12% of 1,6-di-O-benzyl-2,5-di-O-(4-nitrobenzyl)-D-mannitol.

reactant | 4-nitrobenzylbromide | 3 mmol, 648 mg | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
reactant | 1,6-di-O-benzyl-2,5-di-O-(4-nitrobenzyl)-D-mannitol | C(C1=CC=CC=C1)OC[C@@H](OCC1=CC=C(C=C1)[N+](=O)[O-])[C@@H](O)[C@H](O)[C@H](OCC1=CC=C(C=C1)[N+](=O)[O-])COCC1=CC=CC=C1 | C34H36N2O10
catalyst | silver oxide | 2 mmol, 464 mg | [Ag]=O
catalyst | silver oxide | 2 mmol, 464 mg | [Ag]=O
product | 1,6-di-O-benzyl-2-O-(4-nitrobenzyl)-D-mannitol | 60% | C(C1=CC=CC=C1)OC[C@@H](OCC1=CC=C(C=C1)[N+](=O)[O-])[C@@H](O)[C@H](O)[C@H](O)COCC1=CC=CC=C1 | C27H31NO8
